US07384967B2
{2-[3-(2-Cyclopentanesulfonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid ethyl ester
{2-[3-(2-Cyclopentanesulfonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl{-acetic acid ethyl ester (305 mg, 68%) was prepared from 2-cyclopentanesulfonyl-4-methyl-aniline (239 mg, 1.0 mmol) and ethyl 2-amino-4-thiazolylacetate (186 mg, 1.0 mmol) following the general procedure D.

reactant | 2-cyclopentanesulfonyl-4-methyl-aniline | 1.0 mmol, 239 mg | C1(CCCC1)S(=O)(=O)C1=C(N)C=CC(=C1)C | C12H17NO2S
reactant | ethyl 2-amino-4-thiazolylacetate | 1.0 mmol, 186 mg | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | acetic acid ethyl ester | 305 mg | C(C)OC(C)=O | C4H8O2
product | {2-[3-(2-Cyclopentanesulfonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)S(=O)(=O)C1CCCC1)=O | C20H25N3O5S2
